US07214682B2
To a solution of 5.1 g (29.97 mmol) of 2-(4-Fluoro-2-methoxy-phenyl)-ethanol in 30 ml of anhydrous dichloromethane was added at 0° C. 6.26 ml (44.95 mmol) of triethylamine and 3.5 ml (44.95 mmol) of methanesulfonyl chloride. The resulting mixture was stirred at 0° C. for 1 h. The mixture was then diluted with water and dichloromethane and extracted with dichloromethane. Organic layer was dried and evaporated to give 7 g(100%) of methanesulfonic acid 2-(4-fluoro-2-methoxy-phenyl)-ethyl ester.

reactant | 2-(4-Fluoro-2-methoxy-phenyl)-ethanol | 29.97 mmol, 5.1 g | FC1=CC(=C(C=C1)CCO)OC | C9H11FO2
reactant | triethylamine | 44.95 mmol, 6.26 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 44.95 mmol, 3.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methanesulfonic acid 2-(4-fluoro-2-methoxy-phenyl)-ethyl ester | 7 g, 100% | FC1=CC(=C(C=C1)CCOS(=O)(=O)C)OC | C10H13FO4S
